* Reduced Aosong AHT20 I2C humidity/temperature sensor board-observation behavior.
* This source-backed macro-model is intentionally limited to preliminary VDD
* rail and I2C pull-up line-state checks. It does not model humidity,
* temperature, calibration, command protocol, power-on readiness timing,
* self-heating, contamination, recovery, reflow drift, or I2C timing sign-off.

.subckt CIRCUITCI_AHT20_I2C_OBSERVATION VDD GND SDA SCL
* VDD and I2C pins are high impedance. External pull-ups, sources, and board
* metadata define the observable state.
RVDD VDD GND 1G
RSDA SDA GND 1G
RSCL SCL GND 1G
.ends CIRCUITCI_AHT20_I2C_OBSERVATION
