* Reduced Bosch BME280 I2C board-observation behavior.
* This source-backed macro-model is intentionally limited to preliminary
* board-level rail, I2C pull-up, CSB interface-select, and SDO address-select
* checks. It does not model humidity, pressure, temperature, compensation
* formulas, registers, bus protocol, timing, noise, or calibration.

.subckt CIRCUITCI_BME280_I2C_OBSERVATION VDD VDDIO GND CSB SDI SDO SCK
* All non-supply interface pins are high impedance. External pull-ups,
* pull-downs, sources, and board metadata define the observable state.
RVDD VDD GND 1G
RVDDIO VDDIO GND 1G
RCSB CSB GND 1G
RSDI SDI GND 1G
RSDO SDO GND 1G
RSCK SCK GND 1G
.ends CIRCUITCI_BME280_I2C_OBSERVATION
