* Deterministic RC delay subcircuit for generated SPICE subckt validation.

.subckt CIRCUITCI_RC_DELAY IN OUT VSS
RIN IN OUT 1k
COUT OUT VSS 10n
.ends CIRCUITCI_RC_DELAY
