* Reduced Microchip AT24C02C I2C EEPROM board-observation behavior.
* This source-backed macro-model is intentionally limited to preliminary
* board-level VCC, I2C pull-up, address-select, and write-protect line checks.
* It does not model I2C transactions, EEPROM contents, write cycles, endurance,
* retention, acknowledge polling, or timing sign-off.

.subckt CIRCUITCI_AT24C02C_I2C_EEPROM_OBSERVATION VCC GND A0 A1 A2 SDA SCL WP
* All address, I2C, and write-protect pins are high impedance. External
* pull-ups, pull-downs, host sources, and board metadata define the observable
* state.
RVCC VCC GND 1G
RA0 A0 GND 1G
RA1 A1 GND 1G
RA2 A2 GND 1G
RSDA SDA GND 1G
RSCL SCL GND 1G
RWP WP GND 1G
.ends CIRCUITCI_AT24C02C_I2C_EEPROM_OBSERVATION
