* Reduced Microchip ATECC608A I2C secure-element board-observation behavior.
* This source-backed macro-model is intentionally limited to preliminary
* board-level VCC and I2C pull-up line checks. It does not model cryptographic
* commands, key storage, secure boot, provisioning, RNG behavior, wake/sleep
* timing, or I2C transaction sign-off.

.subckt CIRCUITCI_ATECC608A_I2C_SECURE_ELEMENT_OBSERVATION VCC GND SDA SCL
* VCC and I2C pins are high impedance. External pull-ups, host sources, and
* board metadata define the observable state.
RVCC VCC GND 1G
RSDA SDA GND 1G
RSCL SCL GND 1G
.ends CIRCUITCI_ATECC608A_I2C_SECURE_ELEMENT_OBSERVATION
