* Reduced Microchip MCP23017 I2C GPIO expander board-observation behavior.
* This source-backed macro-model is intentionally limited to preliminary
* board-level VDD, I2C pull-up, address-select, reset, interrupt, and selected
* GPIO line-state checks. It does not model I2C transactions, registers,
* interrupt-on-change logic, GPIO direction, weak pull-ups, or timing sign-off.

.subckt CIRCUITCI_MCP23017_I2C_GPIO_EXPANDER_OBSERVATION VDD VSS SCL SDA A0 A1 A2 RESET INTA INTB GPA0 GPA1 GPA2 GPA3 GPA4 GPA5 GPA6 GPA7 GPB0 GPB1 GPB2 GPB3 GPB4 GPB5 GPB6 GPB7
* All I2C, address, reset, interrupt, and GPIO pins are high impedance.
* External pull-ups, pull-downs, host sources, loads, and board metadata define
* the observable line state.
RVDD VDD VSS 1G
RSCL SCL VSS 1G
RSDA SDA VSS 1G
RA0 A0 VSS 1G
RA1 A1 VSS 1G
RA2 A2 VSS 1G
RRESET RESET VSS 1G
RINTA INTA VSS 1G
RINTB INTB VSS 1G
RGPA0 GPA0 VSS 1G
RGPA1 GPA1 VSS 1G
RGPA2 GPA2 VSS 1G
RGPA3 GPA3 VSS 1G
RGPA4 GPA4 VSS 1G
RGPA5 GPA5 VSS 1G
RGPA6 GPA6 VSS 1G
RGPA7 GPA7 VSS 1G
RGPB0 GPB0 VSS 1G
RGPB1 GPB1 VSS 1G
RGPB2 GPB2 VSS 1G
RGPB3 GPB3 VSS 1G
RGPB4 GPB4 VSS 1G
RGPB5 GPB5 VSS 1G
RGPB6 GPB6 VSS 1G
RGPB7 GPB7 VSS 1G
.ends CIRCUITCI_MCP23017_I2C_GPIO_EXPANDER_OBSERVATION
