* Reduced Nordic nRF52840 board-boundary observation behavior.
* This source-backed macro-model is intentionally limited to preliminary rail,
* reset, SWD, UART/GPIO idle, USB boundary, and antenna feed-state checks. It
* does not model GPIO thresholds or drive strength, firmware, BLE/Thread/Zigbee
* radio behavior, RF matching, USB signal integrity, DCDC networks, reset UICR
* programming, thermal behavior, or transient current waveforms.

.subckt CIRCUITCI_NRF52840_BOARD_OBSERVATION VDD VDDH VBUS VSS nRESET SWDCLK SWDIO P0_06 P0_08 USB_DP USB_DM ANT
* All non-supply pins are high impedance. External pull-ups, pull-downs,
* sources, and board metadata define the observable state.
RVDD VDD VSS 1G
RVDDH VDDH VSS 1G
RVBUS VBUS VSS 1G
RRESET nRESET VSS 1G
RSWDCLK SWDCLK VSS 1G
RSWDIO SWDIO VSS 1G
RP006 P0_06 VSS 1G
RP008 P0_08 VSS 1G
RUSBDP USB_DP VSS 1G
RUSBDM USB_DM VSS 1G
RANT ANT VSS 1G
.ends CIRCUITCI_NRF52840_BOARD_OBSERVATION
