* Reduced Nuvoton NAU7802 bridge ADC board-observation behavior.
* This source-backed macro-model is intentionally limited to preliminary
* rail, reference, bridge-input, I2C idle, and DRDY line-state checks. It does
* not model ADC conversion, PGA gain, calibration, register protocol, I2C
* timing, oscillator behavior, bridge excitation, or metrology accuracy.

.subckt CIRCUITCI_NAU7802_BRIDGE_ADC_OBSERVATION DVDD DVSS AVDD AVSS REFP REFN VIN1P VIN1N VIN2P VIN2N SCLK SDIO DRDY VBG
* All observed pins are high impedance. External pull-ups, sources, bridge
* resistors, references, and board metadata define the observable state.
RDVDD DVDD DVSS 1G
RAVDD AVDD AVSS 1G
RREFP REFP AVSS 1G
RREFN REFN AVSS 1G
RVIN1P VIN1P AVSS 1G
RVIN1N VIN1N AVSS 1G
RVIN2P VIN2P AVSS 1G
RVIN2N VIN2N AVSS 1G
RSCLK SCLK DVSS 1G
RSDIO SDIO DVSS 1G
RDRDY DRDY DVSS 1G
RVBG VBG AVSS 1G
.ends CIRCUITCI_NAU7802_BRIDGE_ADC_OBSERVATION
