* Reduced Sensirion SHT31-DIS I2C board-observation behavior.
* This source-backed macro-model is intentionally limited to preliminary
* board-level rail, I2C pull-up, ADDR select, nRESET, and ALERT line checks.
* It does not model humidity, temperature, compensation, registers, I2C
* transactions, clock stretching, alert-threshold logic, heating, drift,
* contamination, or calibration.

.subckt CIRCUITCI_SHT31_I2C_OBSERVATION VDD VSS SDA SCL ADDR NRESET ALERT
* All signal pins are high impedance. External pull-ups, pull-downs, sources,
* and board metadata define the observable state.
RVDD VDD VSS 1G
RSDA SDA VSS 1G
RSCL SCL VSS 1G
RADDR ADDR VSS 1G
RNRESET NRESET VSS 1G
RALERT ALERT VSS 1G
.ends CIRCUITCI_SHT31_I2C_OBSERVATION
