* Reduced WCH CH340N USB-UART bridge observation behavior.
* This source-backed macro-model is intentionally limited to preliminary
* board-level VCC, TXD idle-high, and RTS# output-state checks.

.subckt CIRCUITCI_CH340N_USB_UART VCC GND TXD RXD RTS_N PARAMS: TXD_STATE=1 RTS_N_STATE=1
* TXD and RTS_N are preliminary voltage drivers with source impedance inferred
* from the CH340 3.3 V-mode VOH condition. RXD is represented as a
* high-impedance input. USB protocol, enumeration, oscillator accuracy, suspend
* behavior, UART baud timing, and transistor-level modem behavior are out of
* scope.
BTXD NTXD GND V={v(VCC,GND)*TXD_STATE}
RTXD NTXD TXD 300
BRTS NRTS GND V={v(VCC,GND)*RTS_N_STATE}
RRTS NRTS RTS_N 300
RRXD RXD GND 1G
.ends CIRCUITCI_CH340N_USB_UART
