* Reduced Winbond W25Q64JV SPI/QSPI standby board-observation behavior.
* This source-backed macro-model is intentionally limited to preliminary
* board-level VCC, SPI idle-bias, and reset/write-protect pull-up checks. It
* does not model commands, JEDEC ID, SFDP, memory contents, erase/program
* state machines, XIP behavior, retention, endurance, or signal integrity.

.subckt CIRCUITCI_W25Q64JV_SPI_OBSERVATION VCC GND CS_N DO_IO1 WP_N_IO2 DI_IO0 CLK HOLD_N_RESET_N_IO3
* All SPI/QSPI pins are high impedance. External pull-ups, pull-downs, host
* sources, and board metadata define the observable line state.
RVCC VCC GND 1G
RCS CS_N GND 1G
RDO DO_IO1 GND 1G
RWP WP_N_IO2 GND 1G
RDI DI_IO0 GND 1G
RCLK CLK GND 1G
RHOLD HOLD_N_RESET_N_IO3 GND 1G
.ends CIRCUITCI_W25Q64JV_SPI_OBSERVATION
